US08048902B2
Step 4: 5-(4-Bromo-3-methyl-phenyl)-3-methyl-isoxazole-4-carboxylic acid
5-(4-Bromo-3-methyl-phenyl)-3-methyl-isoxazole-4-carboxylic acid methyl ester (7.26 g, 23.4 mmol) was hydrolyzed with 1N aqueous LiOH. Acidic work-up provided the title compound.

reactant | 5-(4-Bromo-3-methyl-phenyl)-3-methyl-isoxazole-4-carboxylic acid methyl ester | 23.4 mmol, 7.26 g | COC(=O)C=1C(=NOC1C1=CC(=C(C=C1)Br)C)C | C13H12BrNO3
reactant | LiOH | 1N | [Li+].[OH-]
product | 5-(4-Bromo-3-methyl-phenyl)-3-methyl-isoxazole-4-carboxylic acid | BrC1=C(C=C(C=C1)C1=C(C(=NO1)C)C(=O)O)C | C12H10BrNO3
